* D:\NITR\VLSI\LT Spice CMOS\Full_Adder_1.asc
M伯2 N010 B 0 0 NMOS l=180n w=2u
M你2 N010 A 0 0 NMOS l=180n w=2u
M低1 ~Cout C N010 0 NMOS l=180n w=2u
M你1 ~Cout A N011 0 NMOS l=180n w=2u
M伯1 N011 B 0 0 NMOS l=180n w=2u
M低2 N003 C ~Cout N001 PMOS l=180n w=4u
M你4 N001 A N003 N001 PMOS l=180n w=4u
M伯4 N001 B N003 N001 PMOS l=180n w=4u
M你3 N006 A ~Cout N001 PMOS l=180n w=4u
M伯3 N001 B N006 N001 PMOS l=180n w=4u
A兌1 ~Cout 0 0 0 0 Cout 0 0 BUF
M你7 N009 A 0 0 NMOS l=180n w=2u
M伯7 N009 B 0 0 NMOS l=180n w=2u
M低7 N009 C 0 0 NMOS l=180n w=2u
M4 N007 ~Cout N009 0 NMOS l=180n w=2u
M你8 N007 A N008 0 NMOS l=180n w=3u
M伯8 N008 B N012 0 NMOS l=180n w=3u
M低8 N012 C 0 0 NMOS l=180n w=3u
M8 N004 ~Cout N007 N001 PMOS l=180n w=4u
M你5 N001 A N004 N001 PMOS l=180n w=4u
M伯5 N001 B N004 N001 PMOS l=180n w=4u
M低5 N001 C N004 N001 PMOS l=180n w=4u
M你6 N005 A N007 N001 PMOS l=180n w=6u
M伯6 N002 B N005 N001 PMOS l=180n w=6u
M低6 N001 C N002 N001 PMOS l=180n w=6u
V1 A 0 PULSE(0 5 0 5n 5n 80m 160m)
V2 B 0 PULSE(0 5 0 5n 5n 40m 80m)
V3 C 0 PULSE(0 5 0 5n 5n 20m 40m)
V4 N001 0 5
A兌2 N007 0 0 0 0 Sum 0 0 BUF
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\SONU\Documents\LTspiceXVII\lib\cmp\standard.mos
.inc 180nm_bulk.txt
.tran 160m
.backanno
.end
