* D:\NITR\VLSI\LT Spice CMOS\NMOS_Char.asc
* Generated by LTspice 24.1.9 for Windows.
M1 N001 N002 0 0 NMOS_65 l=100n w=1u
V1 N002 0 {VGIN}
V2 N001 0 0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\SONU\AppData\Local\LTspice\lib\cmp\standard.mos
.inc 65nm_bulk.txt
.dc V2 0 1.2 0.01
.STEP PARAM VGIN 0.6 0.8 0.1
.backanno
.end
